US08115016B2
(2R,4S)-5-Biphenyl-4-yl-4-[3-(2-bromoethoxycarbonyl)propionylamino]-2-methylpentanoic acid (3-a, R1=4-oxo-pentanoic acid 2-bromoethyl ester, R2=H, R3=Et) (6 g, 11.6 mmol) is dissolved in DMF (30 ml). Cesium carbonate (8.2 g, 23.2 mmol) is added and mixture is stirred at 50° C. for 2 h. Water (150 ml) is then added followed by addition of ethyl acetate (150 ml). Next, the phases are separated. The organic phase is washed with brine, dried (Na2SO4) and concentrated in vacuo. The mixture is purified by chromatography: Heptane/EtOAc (2:1) to afford (2R,4S)-5-Biphenyl-4-yl-4-(2,5-dioxopyrrolidin-1-yl)-2-methylpentanoic acid ethyl ester. 1H NMR (DMSO): 1.05 (3H), 1.14 (3H), 1.94 (1H), 2.20 (1H), 2.39 (1H). 2.51 (4H), 2.98 (1H), 3.12 (1H), 4.01 (2H), 4.29 (1H), 7.18 (2H), 7.32 (1H), 7.43 (2H), 7.56 (2H), 7.62 (2H).

reactant | (2R,4S)-5-Biphenyl-4-yl-4-[3-(2-bromoethoxycarbonyl)propionylamino]-2-methylpentanoic acid | C1(=CC=C(C=C1)C[C@H](C[C@H](C(=O)O)C)NC(CCC(=O)OCCBr)=O)C1=CC=CC=C1 | C24H28BrNO5
reactant | (2R,4S)-5-biphenyl-4-yl-4-tert-butoxycarbonylamino-2-methylpentanoic acid | C1(=CC=C(C=C1)C[C@H](C[C@H](C(=O)O)C)NC(=O)OC(C)(C)C)C1=CC=CC=C1 | C23H29NO4
reactant | 4-oxo-pentanoic acid 2-bromoethyl ester | BrCCOC(CCC(C)=O)=O | C7H11BrO3
reactant | Cesium carbonate | 23.2 mmol, 8.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | Water | 150 ml | O | H2O
product | (2R,4S)-5-Biphenyl-4-yl-4-(2,5-dioxopyrrolidin-1-yl)-2-methylpentanoic acid ethyl ester | C(C)OC([C@@H](C[C@@H](CC1=CC=C(C=C1)C1=CC=CC=C1)N1C(CCC1=O)=O)C)=O | C24H27NO4
